US04248618
5-Chloro-2-(4-methoxyphenylthio)pyrimidine (7.5 g) was dissolved in methylene chloride (60 ml) and the solution was cooled to -78° C. Boron tribromide (18 g) was added dropwise to the stirred solution, the temperature of the solution being maintained at -65° to -75° C. On completion of the addition the reaction mixture was stirred for a further one hour at -78° C. and then the temperature of the reaction mixture was allowed to rise slowly to 20° C. The reaction was quenched with water (50 ml), the resultant suspension cooled and filtered to give 4-(5-chloro-2-pyrimidylthio)phenol (5 g) as an almost colourless solid.

reactant | 5-Chloro-2-(4-methoxyphenylthio)pyrimidine | 7.5 g | ClC=1C=NC(=NC1)SC1=CC=C(C=C1)OC | C11H9ClN2OS
reactant | Boron tribromide | 18 g | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 4-(5-chloro-2-pyrimidylthio)phenol | 5 g | ClC=1C=NC(=NC1)SC1=CC=C(C=C1)O | C10H7ClN2OS
